US04058568
Preparation of 1,2,3,4,9,9-hexabromo-1,4-dihydro-1,4-methanonaphthalene-5,8-diol.
A mixture of benzoquinone, 10.8 g. toluene (40 ml) and 1,2,3,4,5,5-hexabromo-1,3-cyclopentadiene (60 g.) was heated to reflux temperature and refluxed for four hours. At the end of this reaction period a dark solid had formed. This solid was placed on a Buchner funnel and washed with Skelly B solvent and a small amount of methanol. The solid was then recrystallized from benzene and white crystals were obtained, m.p. 204°-206° C.

reactant | benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1,2,3,4,5,5-hexabromo-1,3-cyclopentadiene | 60 g | BrC1=C(C(=C(C1(Br)Br)Br)Br)Br | C5Br6
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,9,9-hexabromo-1,4-dihydro-1,4-methanonaphthalene-5,8-diol | BrC12C(=C(C(C=3C(=CC=C(C13)O)O)(C2(Br)Br)Br)Br)Br | C11H4Br6O2
